US08084448B2
A. (2-Hydroxymethylphenyl)-acetonitrile
To a solution of 2-cyanomethylbenzoic acid methyl ester (1.75 g, 10 mmol) in THF (15 mL) is added LiBH4 (660 mg, 30 mmol) and the mixture is stirred at RT for 3 h. The mixture is quenched with MeOH then water is added. The mixture is extracted with EtOAc and the organic phase is washed with 1N HCl and brine then is dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 2-cyanomethylbenzoic acid methyl ester | 10 mmol, 1.75 g | COC(C1=C(C=CC=C1)CC#N)=O | C10H9NO2
reactant | LiBH4 | 30 mmol, 660 mg | [Li+].[BH4-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-Hydroxymethylphenyl)-acetonitrile | OCC1=C(C=CC=C1)CC#N | C9H9NO
